US07247625B2
To a stirred solution of 2-amino-5-[(3-chloro-4-fluorophenyl)amino]benzonitrile (5.90 g, 22.5 mmol) in THF (120 mL) at 0° C. was slowly added ethyl magnesium bromide (80 mL, 80.0 mmol). The solution was stirred at room temperature for 2 days and quenched with 1N HCl. The resulting mixture was made alkaline with sodium bicarbonate solution (sat.) and extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate. Flash silica gel column separation using 20% ethyl acetate/hexane followed by trituration with ether gave 1-{2-amino-5-[(3-chloro-4-fluorophenyl)amino]phenyl}propan-1-one as a yellow solid (2.48 g, 38%). 1H NMR (DMSO-d6): δ 7.78 (s, 1H), 7.48 (d, J=2.5 Hz, 1H), 7.18 (t, J=9.1 Hz, 1H), 7.12 (dd, J=8.8, 2.6 Hz, 1H), 7.04 (s, 2H), 6.81 (m, 1H), 6.79 (d, J=8.8 Hz, 1H), 6.73 (m, 1H), 2.93 (q, J=7.2 Hz, 2H), 1.07 (t, J=7.1 Hz, 3H); MS (ESI) m/z 293/295 ([M+H]+); MS (ESI) m/z 291/293 ([M−H]−); Anal. calcd for C15H14ClFN2O: C, 61.54H, 4.82; N, 9.57. Found: C, 61.55; H, 4.68; N, 9.47.

reactant | 2-amino-5-[(3-chloro-4-fluorophenyl)amino]benzonitrile | 22.5 mmol, 5.90 g | NC1=C(C#N)C=C(C=C1)NC1=CC(=C(C=C1)F)Cl | C13H9ClFN3
reactant | ethyl magnesium bromide | 80.0 mmol, 80 mL | C(C)[Mg]Br
reactant | THF | 120 mL | C1CCOC1 | C4H8O
product | 1-{2-amino-5-[(3-chloro-4-fluorophenyl)amino]phenyl}propan-1-one | 2.48 g, 38% | NC1=C(C=C(C=C1)NC1=CC(=C(C=C1)F)Cl)C(CC)=O | C15H14ClFN2O
